US09126976B2
N-methoxy-N-methyl-3-(1,1,2,2-tetrafluoroethoxy)benzamide (7.5 g, 25.2 mmol) was dissolved in THF (84 mL) and cooled to −78° C. Methyl magnesium bromide (3N in diethyl ether, 21.03 mL, 63.1 mmol) was added dropwise and the resulting reaction mixture was stirred for 30 min. The reaction was warmed to 25° C. over 30 minutes and then was quenched by addition to an Erlenmeyer flask containing ice and saturated ammonium chloride solution. This mixture was extracted with EtOAc, the organic layers were collected and dried with anhydrous magnesium sulfate, then filtered and concentrated. Crude material obtained corresponds to 1-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]ethanone. 1H NMR (400 MHz, CDCl3) δ 2.62 (s, 3H), 5.96 (t, t, J=53, 2.7 Hz, 1H), 7.43 (d, J=8.1 Hz, 1H), 7.51 (t, J=8.0 Hz, 1H), 7.80 (s, 1H), 7.88 (d, J=7.8 Hz, 1H).

reactant | N-methoxy-N-methyl-3-(1,1,2,2-tetrafluoroethoxy)benzamide | 25.2 mmol, 7.5 g | CON(C(C1=CC(=CC=C1)OC(C(F)F)(F)F)=O)C | C11H11F4NO3
reactant | Methyl magnesium bromide | 63.1 mmol, 3N, 21.03 mL | C[Mg]Br
solvent | THF | 84 mL | C1CCOC1 | C4H8O
product | 1-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]ethanone | FC(C(F)F)(OC=1C=C(C=CC1)C(C)=O)F | C10H8F4O2
